US06716861B2
tert-butyl (3R)-3-[({[(Z)-amino(1-benzhydryl-3-azetidinyl)methylidene]amino}oxy)carbonyl]-6-cyclohexylhexanoate
Method as for preparation 2 using (2R)-2-(2-tert-butoxy-2-oxoethyl)-5-cyclohexylpentanoic acid (1.65 g, 5.51 mmol) and 1-benzhydryl-N′-hydroxy-3-azetidinecarboximidamide (preparation 34) (1.74 g, 6.17 mmol) as starting materials.

reactant | (2R)-2-(2-tert-butoxy-2-oxoethyl)-5-cyclohexylpentanoic acid | 5.51 mmol, 1.65 g | C(C)(C)(C)OC(C[C@H](C(=O)O)CCCC1CCCCC1)=O | C17H30O4
reactant | 1-benzhydryl-N′-hydroxy-3-azetidinecarboximidamide | 6.17 mmol, 1.74 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CC(C1)C(N)=NO | C17H19N3O
product | tert-butyl (3R)-3-[({[(Z)-amino(1-benzhydryl-3-azetidinyl)methylidene]amino}oxy)carbonyl]-6-cyclohexylhexanoate | N\C(\C1CN(C1)C(C1=CC=CC=C1)C1=CC=CC=C1)=N/OC(=O)[C@@H](CC(=O)OC(C)(C)C)CCCC1CCCCC1 | C34H47N3O4
